US05804588
8-Methoxy-2-(3-pyridyl)quinoline
Powdered potassium hydroxide (675 mg) was added to a stirred mixture of 2-bromo-8-methoxyquinoline (956 mg), diethyl(3-pyridyl)borane (590 mg), tetrakis(triphenylphosphine)-palladium(0) (250 mg) and tetra-n-butylammonium iodide (740 mg) in anhydrous tetrahydrofuran (60ml). The stirred mixture was refluxed under an inert atmosphere for 1.25 h. The solvent was removed in vacuo and the residue partitioned between dichloromethane (100 ml) and water (80ml). The aqueous phase was reextracted with dichloromethane (2×50 ml) and the combined organic phases were dried (magnesium sulfate), filtered through a small pad of Celite and evaporated in vacuo. The crude product was purified by flash chromatography on silica, eluting with ethyl acetate to yield the title compound (780 mg) as a clear oil.

reactant | potassium hydroxide | 675 mg | [OH-].[K+]
reactant | 2-bromo-8-methoxyquinoline | 956 mg | BrC1=NC2=C(C=CC=C2C=C1)OC | C10H8BrNO
reactant | diethyl(3-pyridyl)borane | 590 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
catalyst | tetra-n-butylammonium iodide | 740 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 60ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 250 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-Methoxy-2-(3-pyridyl)quinoline | 780 mg | COC=1C=CC=C2C=CC(=NC12)C=1C=NC=CC1 | C15H12N2O
